US04145364
Step A: Preparation of 3,5-dimethylphenylazide
A solution of 9.68g. (0.08 mole) of 3,5-dimethylaniline in 100 ml. of water and 10 ml. of concentrated HCl was cooled to 0° C. Then a solution of 6.07g. (0.088 mole) of NaNO2 in 20 ml. of water was added dropwise to the solution of 3,5-dimethylaniline, and the reaction mixture was aged for one-half hour. There was then added to the reaction mixture 70 ml. of n-hexane followed by a solution of 5.72g. (0.088 mole) of NaN3 in 20 ml. of water which was added dropwise and accompanied by vigorous evolution of gas from the reaction mixture. The reaction mixture was then stirred for 15 minutes at room temperature. Separate layers were observed to form and the hexane layer was noted to have a deep yellow color. The reaction mixture was extracted again with 50 ml. of hexane, and the combined hexane extracts were dried over MgSO4 and concentrated to a volume of 95 ml. Structure of the final product was confirmed by IR. The 95 ml. solution of product was used as a starting material for Step B below.

reactant | 3,5-dimethylaniline | 0.08 mole | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | HCl | Cl | ClH
reactant | NaNO2 | 0.088 mole | N(=O)[O-].[Na+]
reactant | NaN3 | 0.088 mole | [N-]=[N+]=[N-].[Na+]
solvent | hexane | CCCCCC | C6H14
solvent | water | O | H2O
product | 3,5-dimethylphenylazide | CC=1C=C(C=C(C1)C)N=[N+]=[N-] | C8H9N3
